US08124629B2
To a mixture of the above prepared (4-acetoxy-6-fluoro-3-methyl-naphthalen-2-yl)-acetic acid tert-butyl ester (28.4 g, 85.44 mmol) in 140 mL of methanol was added sodium methoxide (25% solution in methanol, 23.44 mL, 102.5 mmol) rapidly dropwise. The resulting reaction mixture was stirred at room temperature for 20 minutes, when HPLC analysis indicated a completed reaction. The mixture was cooled to 0° C., and then acidified to pH 2 with 1N hydrochloric acid solution (111.1 mL, 111.1 mmol). The mixture was then stirred at 0-5° C. for an additional 30 minutes. The resulting solid was filtered, and washed with water (2×40 mL), then dried under vacuum overnight (40° C.), to produce 23.7 g of (6-fluoro-4-hydroxy-3-methyl-naphthalen-2-yl)-acetic acid tert-butyl ester as a light yellow solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.09 (s, 1 H), 7.76-7.86 (m, 2 H), 7.26-7.35 (m, 2 H), 3.71 (s, 2 H), 2.23 (s, 3 H), 1.41 (s, 9 H).

reactant | (4-acetoxy-6-fluoro-3-methyl-naphthalen-2-yl)-acetic acid tert-butyl ester | 85.44 mmol, 28.4 g | C(C)(C)(C)OC(CC1=CC2=CC=C(C=C2C(=C1C)OC(C)=O)F)=O | C19H21FO4
reactant | sodium methoxide | 102.5 mmol, 23.44 mL | C[O-].[Na+]
reactant | hydrochloric acid | 111.1 mmol, 1N, 111.1 mL | Cl | ClH
solvent | methanol | 140 mL | CO | CH4O
product | (6-fluoro-4-hydroxy-3-methyl-naphthalen-2-yl)-acetic acid tert-butyl ester | 23.7 g | C(C)(C)(C)OC(CC1=CC2=CC=C(C=C2C(=C1C)O)F)=O | C17H19FO3
